US08975254B2
a) 3-tert-butyl-N-(2-(furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide
2-(furan-2-yl)ethanamine (0.81 g, 7.30 mmol) was added to a premixed (10 min) solution of 3-tert-butyl-1H-pyrazole-5-carboxylic acid (0.61 g, 3.60 mmol), DCC (1.51 g, 7.30 mmol) and HOBt (0.99 g, 7.30 mmol) in DCM:DMF-solution (10 ml, 2:9, v/v). After stirring for 15 h at RT the reaction mixture was filtered through a pad of Celite and the filtrate was washed two times with water, evaporated to dryness and purified with CombiFlash to afford 0.36 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.27 (s, 9H), 2.84 (t, 2H), 3.46 (m, 2H), 6.17 (m, 1H), 6.35 (m, 2H), 7.52 (m, 1H), 8.08 (m, 1H), 12.89 (m, 1H).

reactant | 2-(furan-2-yl)ethanamine | 7.30 mmol, 0.81 g | O1C(=CC=C1)CCN | C6H9NO
reactant | 3-tert-butyl-1H-pyrazole-5-carboxylic acid | 3.60 mmol, 0.61 g | C(C)(C)(C)C1=NNC(=C1)C(=O)O | C8H12N2O2
reactant | DCC | 7.30 mmol, 1.51 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 7.30 mmol, 0.99 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-tert-butyl-N-(2-(furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide | 0.36 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NCCC=1OC=CC1 | C14H19N3O2
